US04725601
Mesyl chloride (1.73 ml) was added dropwise to a solution of 3-hydroxy-2-methoxy-1-hexen-5-yne (2 g) and triethylamine (3.32 ml) in methylene chloride (20 ml) under ice-cooling over a period of 10 minutes. After being stirred for 48 hours at room temperature the mixture was washed successively with water, aqueous sodium bicarbonate solution, and brine, dried over magnesium sulfate, and evaporated in vacuo to give 3-mesyloxy-2-methoxy-1-hexen-5-yne (3.45 g).

reactant | Mesyl chloride | 1.73 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 3-hydroxy-2-methoxy-1-hexen-5-yne | 2 g | OC(C(=C)OC)CC#C | C7H10O2
reactant | triethylamine | 3.32 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-mesyloxy-2-methoxy-1-hexen-5-yne | 3.45 g | S(=O)(=O)(C)OC(C(=C)OC)CC#C | C8H12O4S
